US07812183B2
4-(6-Chloro-4-oxo-1,4-dihydro-quinazolin-2-ylamino)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #7)
4-Amino-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (5 mmoL) and 6-chloro-2-methoxy-1H-quinazolin-4-one (5 mmoL) in toluene (15 mL) in a sealed tube were heated at 150° C. for 4 hrs. The solvent was removed and the residue was purified by silica gel chromatography with hexanes and ethyl acetate to yield the title compound as white solid.

reactant | 4-Amino-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | NC1C(C(OC2=CC=C(C=C12)C#N)(C)C)O | C12H14N2O2
reactant | 6-chloro-2-methoxy-1H-quinazolin-4-one | ClC=1C=C2C(N=C(NC2=CC1)OC)=O | C9H7ClN2O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(6-Chloro-4-oxo-1,4-dihydro-quinazolin-2-ylamino)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | ClC=1C=C2C(N=C(NC2=CC1)NC1C(C(OC2=CC=C(C=C12)C#N)(C)C)O)=O | C20H17ClN4O3
